### PR TITLE
[Merged by Bors] - feat(Probability): lemmas about composition-product of a measure and a kernel

### PR DESCRIPTION
**Pull request by RemyDegenne**
From the TestingLowerBounds project.
Co-authored-by: Lorenzo Luccioli

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Probability/Kernel/MeasureCompProd.lean [hunk 1]
```diff
@@ -58,6 +58,11 @@ lemma compProd_apply [SFinite μ] [IsSFiniteKernel κ] {s : Set (α × β)} (hs
   simp_rw [compProd, Kernel.compProd_apply hs, Kernel.const_apply, Kernel.prodMkLeft_apply']
   rfl
 
+@[simp]
+lemma compProd_apply_univ [SFinite μ] [IsMarkovKernel κ] : (μ ⊗ₘ κ) .univ = μ .univ := by
+  rw [compProd_apply .univ]
```
Comment (sgouezel) [inline Mathlib/Probability/Kernel/MeasureCompProd.lean:63]:
```suggestion
lemma compProd_apply_univ [SFinite μ] [IsMarkovKernel κ] : (μ ⊗ₘ κ) univ = μ univ := by
  rw [compProd_apply MeasurableSet..univ]
```
What about opening `Set` at the top of the file to get rid of the weird `.univ`?

File: Mathlib/Probability/Kernel/MeasureCompProd.lean [hunk 2]
```diff
@@ -91,19 +96,40 @@ lemma ae_compProd_iff [SFinite μ] [IsSFiniteKernel κ] {p : α × β → Prop}
...
 
+/-- The composition product of a measure and a constant kernel is the product between the two
+measures. -/
+@[simp]
+lemma compProd_const {ν : Measure β} [SFinite μ] [SFinite ν] :
+    μ ⊗ₘ (Kernel.const α ν) = μ.prod ν := by
+  ext s hs
+  simp_rw [compProd_apply hs, prod_apply hs, Kernel.const_apply]
+
+@[simp]
```
Comment (sgouezel) [inline Mathlib/Probability/Kernel/MeasureCompProd.lean:107]: I'm not sure this one should be simp (in the same way that `(a + b) * c` is not simped to `a * c + b * c` by default). Same for the next one.

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks!
